US07011838B2
Using 0.15 g of (4-vinylbenzyl)chloride, 3 ml of N,N-dimethylformamide, 0.05 g of sodium hydride (60% in oil) and 0.17 g of (3,3,3-trifluoropropyl)malononitrile, and according to the process described in the Production Example 27, there was obtained 0.18 g of 2-(3,3,3-trifluoropropyl)-2-(4-vinylbenzyl)malononitrile (the present compound (27)).

reactant | (4-vinylbenzyl)chloride | 0.15 g | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | (3,3,3-trifluoropropyl)malononitrile | 0.17 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(3,3,3-trifluoropropyl)-2-(4-vinylbenzyl)malononitrile | 0.18 g, Yield: 63% | FC(CCC(C#N)(C#N)CC1=CC=C(C=C1)C=C)(F)F | C15H13F3N2
